US06410594B1
A mixture of methyl cis-3-azidomethylcyclopentancarboxylate (1.2 g, 6.5 mmol) and 1 N sodium hydroxide (12.0 mL, 12 mmol) was stirred at room temperature for about 8 h. The alkaline mixture was extracted with chloroform. The aqueous layer was acidified with hydrochloric acid and extracted twice with chloroform. Combined chloroform extracts from the acidic mixture were dried over sodium sulfate, filtered and concentrated to give about 1.0 g (91%) of cis-3-azidomethylcyclopentancarboxylic acid.

reactant | methyl cis-3-azidomethylcyclopentancarboxylate | 6.5 mmol, 1.2 g | N(=[N+]=[N-])C[C@H]1C[C@H](CC1)C(=O)OC | C8H13N3O2
reactant | sodium hydroxide | 12 mmol, 1 N, 12.0 mL | [OH-].[Na+]
product | cis-3-azidomethylcyclopentancarboxylic acid | about 1.0 g, 91% | N(=[N+]=[N-])C[C@H]1C[C@H](CC1)C(=O)O | C7H11N3O2
